reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([N:3]=[O:4])[C:5]#[C:6][H:11])([H:7])[H:8].[H:9][H:10]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],25.975464484033388
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]=[C:6]([O:7][H:11])[H:15])([H:8])([H:9])[H:10],59.1986190810801
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]1([H:8])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([H:16])([H:17])[H:18])[H:15],114.303585424154
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[N:4][H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],71.8436872984215
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3][C:7]([C:5]([C:4]([H:11])([H:12])[H:13])=[O:6])([H:14])[H:15])([H:9])[H:10])[H:8],77.262014460015
[C:1](/[C:2](=[C:3](/[C@@:6]1([H:14])[C:4]([H:12])([H:13])[O:5]1)[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[O:5][C@@:6]12[H:14])([H:7])([H:8])[H:9],88.7782405445389
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1]1=[N:5][N:4]=[C:3]([H:8])[C:2]1([H:6])[H:7],53.098716624348896
[C-:3]#[O+:4].[C:1]([N:2]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],70.61432328758373
[O:1]=[C:2]1[C@@:3]2([H:8])[N:4]([H:9])[C@:5]1([H:10])[C:6]([H:11])=[C:7]2[H:12]>>[O:1]([C@@:2]12[C@@:3]3([H:8])[N:4]1[C@:5]2([H:10])[C:6]([H:11])=[C:7]3[H:12])[H:9],57.3037380421097
[C:1]([C:2](=[C:3]([O-:4])[N:5]([C+:6]([H:13])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:15]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],23.159334185089406
[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([H:11])/[C:6]1=[N:7]/[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],73.3227872846036
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])=[C:5]=[N:6][H:8])[H:7],77.9396295030911
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3][C:4]([C:5]([O:6][H:10])([H:13])[H:14])([H:11])[H:12])([H:8])[H:9])[H:7],73.7370760088466
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],79.58201265192
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])[C:6][N:7]1[H:12])([H:8])([H:9])[H:10],94.5535870189249
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5][O:6][H:14])[H:13])([H:7])([H:8])[H:9],77.8093802367695
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]12[O:4][N:7]([H:14])[C@:6]1([H:13])[N:5]2[H:12])[H:11])([H:8])([H:9])[H:10],124.946103041362
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@@:2]1([O:3][H:13])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)([H:7])[H:8],49.996168727348795
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[O:7][H:21])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:20],104.96894111635
[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[O:3])[H:6])([C:4]([H:8])([H:9])[H:10])([H:5])[H:7],98.15171185159392
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])=[C:6]([H:13])[N:5]([H:12])[C:4]([H:11])=[C:3]([H:10])[C:2]1([H:8])[H:9],58.0050676417054
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C-:3]([C:4]([O:5][H:15])([H:13])[H:14])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],65.3961796053885
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:12])/[C:4]1=[N:5]\[H:11])([H:6])([H:7])[H:8],107.451113007779
[O:1](/[C:2](=[N:3]\[H:9])[H:8])[C:7](=[C:6]1[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],79.4065674034053
